US04317817
The (5α,20R)-4-benzoyl-3-oxopregnane-20-carboxaldehyde (436 mg, 1.0 mmole) in tetrahydrofuran:methanol (2.0 ml, 1:1) is mixed with sodium borohydride (9.5 mg, 0.25 mmole) at 0° C. for 1 hours. The mixture is then diluted with ether and washed with 0.5 N hydrochloric acid and brine and then dried and the solvent is evaporated to leave, as a resiue, (5α,20R)-4-benzoyl-21-hydroxy-20 -methylpregnan-3-one.

reactant | (5α,20R)-4-benzoyl-3-oxopregnane-20-carboxaldehyde | 1.0 mmole, 436 mg | C(C1=CC=CC=C1)(=O)C1[C@@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](C)C=O)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C | C29H38O3
reactant | methanol | 2.0 ml | CO | CH4O
reactant | sodium borohydride | 0.25 mmole, 9.5 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (5α,20R)-4-benzoyl-21-hydroxy-20 -methylpregnan-3-one | C(C1=CC=CC=C1)(=O)C1[C@@H]2CC[C@H]3[C@@H]4CC[C@H]([C@H](CO)C)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C | C29H40O3
